US08497278B2
2-Methyl-3-[(6-methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-amino]-3H-quinazolin-4-one (155)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 3-amino-2-methylquinazolin-4(3H)-one. m/e+ 410 for C25H24N5O [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 8.31 (s, 1H), 8.22 (t, J=1.1 Hz, 1H), 7.71 (m, 1H), 7.68 (d, J=8.0 Hz, 2H), 7.58 (d, J=8.0 Hz, 1H), 7.53 (d, J=9.1 Hz, 1H), 7.44 (t, J=8.0 Hz, 1H), 7.11 (d, J=8.0 Hz, 2H), 7.06 (dd, J=1.1, 9.1 Hz, 1H), 5.86 (t, J=4.8 Hz, 2H), 4.53 (bs, 1H), 2.42 (s, 3H), 2.33 (s, 3H), 2.29 (s, 3H) ppm; 13C-NMR (100 MHz, CDCl3, δ) 161.838, 155.787, 147.287, 146.870, 144.648, 137.968, 134.753, 131.113, 129.377, 128.399, 128.361, 127.246, 126.736, 126.457, 122.711, 121.779, 120.763, 117.161, 114.044, 43.949, 21.906, 21.459, 18.646 ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | 3-amino-2-methylquinazolin-4(3H)-one | NN1C(=NC2=CC=CC=C2C1=O)C | C9H9N3O
product | 2-Methyl-3-[(6-methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-amino]-3H-quinazolin-4-one | CC1=NC2=CC=CC=C2C(N1NCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C)=O | C25H23N5O
